US05153214
A solution of 1.4 g of ethyl 8-(p-chlorophenylsulfonamido)-2-[5-(3-pyridyl)-pentyl]-2-(ethoxycarbonyl)-octanoate in 50 ml of 6N HCl and 10 ml of acetic acid is heated to reflux for 23 h after which time it is evaporated to give an oil. This is treated with water, the solution is neutralized with solid sodium bicarbonate to a pH of 6.4 and extracted with ethyl acetate. The ethyl acetate extract is dried over magnesium sulfate, filtered and concentrated to give crude product which is further purified by chromatography on silica gel [(1) ethyl acetate as eluent, (2) preparative thin layer chromatography with ethyl acetate/acetic acid 99.5:0.5] to give 8-(p-chlorophenylsulfonamido)-2-[5-(3-pyridyl)pentyl])-octanoic acid as an oil, NMR (CDCl3): delta 7.77 (d,2H), 7.4 (d,2H), 2.85 (t,2H), 2.55 (t,2H).

reactant | ethyl 8-(p-chlorophenylsulfonamido)-2-[5-(3-pyridyl)-pentyl]-2-(ethoxycarbonyl)-octanoate | 1.4 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCCCC(C(=O)OCC)(C(=O)OCC)CCCCCC=1C=NC=CC1 | C29H41ClN2O6S
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | HCl | 6N, 50 ml | Cl | ClH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | octanoic acid | C(CCCCCCC)(=O)O | C8H16O2
